US07855215B2
Step 12.1: 7-Methoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide
586 mg (1.97 mMol) triphosgene are dissolved in 70 ml ice-cooled CH2Cl2. Then a solution of 1618 mg (5.92 mMol) 3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-aniline and 1.179 ml (8.46 mMol) Et3N in 12 ml CH2Cl2 is added during 11 min. After 3 additional minutes, the mixture is warmed up to rt by a water bath and then a solution of 1.00 g (5.64 mMol) of 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine [Monatsheft Chemie, 97 (1966), 150] and 786 μl (5.64 mMol) Et3N in 18 ml CH2Cl2 is added during 10 min. After 2 h at rt, the mixture is diluted with water and EtOAc, the aqueous phase separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; EtOAc/EtOH/NH3conc. 95:5:1→90:10:1) gives the title compound: MS: [M+1]+=477; HPLC: AtRet=12.0.

reactant | triphosgene | 1.97 mMol, 586 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-aniline | 5.92 mMol, 1618 mg | FC(C=1C=C(N)C=CC1CN1CCN(CC1)C)(F)F | C13H18F3N3
reactant | Et3N | 8.46 mMol, 1.179 ml | CCN(CC)CC | C6H15N
reactant | 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 5.64 mMol, 1.00 g | COC1=CC2=C(NCCCC2)C=C1 | C11H15NO
reactant | Et3N | 5.64 mMol, 786 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 18 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Methoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide | FC(C=1C=C(C=CC1CN1CCN(CC1)C)NC(=O)N1C2=C(CCCC1)C=C(C=C2)OC)(F)F | C25H31F3N4O2
